US08497278B2
Step 3: ethyl 3-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carboxylate
To a suspension of 2-(2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)-N′-hydroxyacetimidamide (83.3 mmol, 25.0 g) in dry CHCl3 (600 mL) was cooled to −40° C. in an ice/EtOH bath under N2 atmosphere, Py. (100.0 mmol, 8.1 mL) was added in one portion, and followed by slowly adding ethyl 2-chloro-2-oxoacetate (166.6 mmol, 18.6 mL). After that, the reaction mixture was allowed to slowly rise up to r.t., and kept stirring for 1.0 H, D, then heated to 80 C for another 2 hs. The reaction mixture was cooled to r.t. and filtered, and the filtrate was evaporated under reduced pressure to give the brown residue, which was applied to C.C.eluted by petroleum/acetone (4:1, 2:1, 1:1, and 0:1). The acetone portion was concentrated in vacuo to give the solid, which was washed with acetone for 3 times, to obtain the product, 18.0 g (58.0%), as a white solid. m/e+=383 (M+H+).

reactant | 2-(2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)-N′-hydroxyacetimidamide | 83.3 mmol, 25.0 g | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC(N)=NO | C15H13ClN4O
reactant | ethyl 2-chloro-2-oxoacetate | 166.6 mmol, 18.6 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | CHCl3 | 600 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carboxylate | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NOC(=N1)C(=O)OCC | C19H15ClN4O3
